US07777031B2
Step E: (4-Cyclobutyl-[1,4]diazepan-1-yl)-[6-(4-fluoro-phenoxy)-pyridin-3-yl]-methanone hydrochloride monohydrate.
A 3-L, 3-necked, round-bottomed flask was equipped with a mechanical stirrer, addition funnel and a thermocouple. The flask was charged with a solution of crude (4-cyclobutyl-[1,4]diazepan-1-yl)-[6-(4-fluoro-phenoxy)-pyridin-3-yl]-methanone (118.0 g, 319.8 mmol) in ethanol/Et2O (1:1, 800 mL). The reaction vessel was cooled to ca. 5° C. in an ice-water bath. HCl (2 M in Et2O, 152 mL, 304 mmol, 0.95 equiv.) was added drop-wise via the addition funnel over 30 min. The resulting suspension was stirred for 2 h, and then diluted with Et2O (200 mL). The resulting suspension was stirred at rt for 16 h. The suspension was re-cooled to 0° C., maintained at that temperature for 2 h with agitation, then filtered. The filter-cake was broken and washed with Et2O/EtOH (60:40, 100 mL×3) and the product dried under house vacuum for 1 h, then in a vacuum oven at 50° C. for 48 h. The product (113.5 g) was suspended in Et2O (2 L) and agitated (mechanical stirrer) for 6 h. The suspension was filtered, the filter-cake broken and washed with Et2O (3×100 mL). The product was dried in a vacuum oven at 45° C. for 16 h (106.8 g, 82%). 1H NMR (400 MHz, D2O) δ ppm: 8.09-8.05 (m, 1H), 7.88-7.81 (m, 1H), 7.13-7.09 (m, 4H), 7.02 (d, J=8.64 Hz, 1H), 4.15-4.10 (m, 1H), 3.87-3.39 (m, 6H), 3.07-2.90 (m, 2H), 2.28-1.99 (m, 6H), 1.75-1.63 (m, 2H). MS m/z (ESI+): 370.1 (M+H+). HPLC (Method B): Rt=7.13 min. Anal. calcd for C21H24FN3O2.HCl.H2O (monohydrochloride-monohydrate): C, 59.50; H, 6.42; N, 9.91. Found: C, 59.36; H, 6.66; N, 9.98.

reactant | (4-cyclobutyl-[1,4]diazepan-1-yl)-[6-(4-fluoro-phenoxy)-pyridin-3-yl]-methanone | 319.8 mmol, 118.0 g | C1(CCC1)N1CCN(CCC1)C(=O)C=1C=NC(=CC1)OC1=CC=C(C=C1)F | C21H24FN3O2
reactant | HCl | 304 mmol, 2 M, 152 mL, 0.95 equiv. | Cl | ClH
solvent | ethanol Et2O | 800 mL | C(C)O.CCOCC
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | (4-Cyclobutyl-[1,4]diazepan-1-yl)-[6-(4-fluoro-phenoxy)-pyridin-3-yl]-methanone hydrochloride monohydrate | O.Cl.C1(CCC1)N1CCN(CCC1)C(=O)C=1C=NC(=CC1)OC1=CC=C(C=C1)F | InChI=1S/C21H24FN3O2.ClH.H2O/c22-17-6-8-19(9-7-17)27-20-10-5-16(15-23-20)21(26)25-12-2-11-24(13-14-25)18-3-1-4-18;;/h5-10,15,18H,1-4,11-14H2;1H;1H2
